US07820658B2
2-Amino-4-(1H-indol-3-yl)-thieno[2,3-d]pyrimidine-6-carboxylic acid
A solution of 2-amino-4-(1-benzenesulfonyl-1H-indol-3-yl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (80 mg, 0.17 mmol) in ethanol (6 ml) was heated to 65° C., 2M potassium hydroxide added (0.25 ml, 3 equiv.) and stirred overnight. Water was added and the volatile removed in vacuo. The solution was then neutralised and freeze dried.

reactant | 2-amino-4-(1-benzenesulfonyl-1H-indol-3-yl)-thieno[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.17 mmol, 80 mg | C(C)OC(=O)C1=CC2=C(N=C(N=C2C2=CN(C3=CC=CC=C23)S(=O)(=O)C2=CC=CC=C2)N)S1 | C23H18N4O4S2
reactant | potassium hydroxide | 2M | [OH-].[K+]
reactant | Water | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 2-Amino-4-(1H-indol-3-yl)-thieno[2,3-d]pyrimidine-6-carboxylic acid | NC=1N=C(C2=C(N1)SC(=C2)C(=O)O)C2=CNC1=CC=CC=C21 | C15H10N4O2S
